US05026918
A solution of 2.7 g (65 millimole) of NaOH in 2.5 ml of water was added to 8.5 g (90 millimole) of 4-methyl-3-pentene-2-one and stirred at 40° C. while 200 mg of triethyldodecyl ammonium chloride was added. The red solution was treated with 5.4 g (45 millimole) of benzyl chloride and the stirring continued for 4 hours at 50° C. The resulting yellow brown solution was cooled to room temperature and diluted with 10 ml of water, followed by extraction with 50 ml of ether. The organic extract was washed with 10 ml of water, 10 ml of 10% HCl, and then another 10 ml of water, followed by drying over magnesium sulfate. Evaporation of solvent and flash column chromatography gave 4.4 g (52% yield) of 3-benzyl-4-methyl-3-pentene-2-one.

reactant | NaOH | 65 millimole, 2.7 g | [OH-].[Na+]
reactant | 4-methyl-3-pentene-2-one | 90 millimole, 8.5 g | CC(=CC(C)=O)C | C6H10O
reactant | benzyl chloride | 45 millimole, 5.4 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | water | 2.5 ml | O | H2O
solvent | water | 10 ml | O | H2O
catalyst | triethyldodecyl ammonium chloride | 200 mg | [Cl-].C(C)[N+](CCCCCCCCCCCC)(CC)CC
product | 3-benzyl-4-methyl-3-pentene-2-one | 4.4 g, 52% yield | C(C1=CC=CC=C1)C(C(C)=O)=C(C)C | C13H16O
